US07217802B2
The wells of an enhanced binding 96 well polystyrene microtiter plate were coated with the IgG fraction of the antiserum raised to Immunogen 7 (Example 8), diluted in 10 mM Tris, pH8.5 (125 μl/well). The appropriate antibody coating dilution was determined using standard ELISA chequerboard techniques. The plate was incubated for 2 hours at 37° C., washed 4 times with Tris buffered saline containing Tween 20 (TBST) and tapped dry. Standard solutions of MDMA were prepared in TBST at 0, 1, 10, 50, 100, 250, 500 and 1000 ng/ml and 25 μl of each was added to the appropriate wells (FIG. 2). Conjugates (detection reagents)-hapten 7-HRP (Example 9) and hapten 10-HRP (Example 12)—were diluted in Tris buffer, pH7.2, containing EDTA, D-mannitol, sucrose, thimerosal and BSA, appropriate dilutions being determined by standard ELISA chequerboard techniques, and 100 μl of each was added to the appropriate wells (FIG. 2). The plate was incubated at 37° C. for 2 hours. Excess unbound conjugate was removed by washing 6 times over a 10 minute period with TBST.

reactant | EDTA | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | D-mannitol | C([C@@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O | C6H14O6
reactant | sucrose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
reactant | thimerosal | CC[Hg]SC1=CC=CC=C1C(=O)[O-].[Na+]
solvent | Tris | 10 mM | C(C(CO)(CO)N)O | C4H11NO3
product | MDMA | CC(CC=1C=CC2=C(C1)OCO2)NC | C11H15NO2
